US05728556
5-cyanopentanamide production from adipontrile using Pseudomonas-derived Whole Cell Biocatalysts
Various Pseudomonas strains were grown on 10 mM adipontrile in PR Basal medium for 24 h and harvested by centrifugation. Wet cell pastes were frozen for storage. To test for biocatalyst reaction, 50 mg of frozen cell paste was resuspended in 1 mL of 50 mM pyrophosphate buffer, pH 7.5. Adiponitrile substrate was added to a final concentration of 100 mM and the cell suspensions were shaken at 200 rpm at 5° C. for 4-7 h. Cells were removed by centrifugation and the clarified supernatant was analyzed for the presence of 5-cyanopentanamide by gas chromatography. The following Pseudomonas strains were found to produce the desired product: P. putida 5B-MGN-2p (NRRL-18668), Pseudomonas sp. 3L-H-2-6-1p, P. putida 20-5-SBN-1b (ATCC 55735), P. putida 3L-G-1-5-1a-1 (ATCC 55736), P. chlororaphis B23 (FERM-B187), Pseudomonas sp. 3L-H-9-6-2p, and P. putida 2-H-9-5-1a.

reactant | Adiponitrile | C(CCCCC#N)#N | C6H8N2
reactant | pyrophosphate | 50 mM, 1 mL | [O-]P([O-])(=O)OP(=O)([O-])[O-]
product | 5-cyanopentanamide | C(#N)CCCCC(=O)N | C6H10N2O
